US07951826B2
(6-Hydroxy-pyridin-3-yl)-(S)(+)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
PS-carbodiimide (1.39 mmol/g) resin beads (2.1 g, 3 mmol) are added to a 10 mL CHCl3/BuOH/MeCN (5:1:1) mixture of nicotinic acid (278 mg, 2 mmol), (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (231 mg, 1.5 mmol), HOBt (300 mg, 2.2 mmol), and triethylamine (0.30 mL, 2.2 mmol). The mixture is shaken at room temperature for 3 days. The reaction mixture is filtered and the beads are washed alternately with MeOH, then CH2Cl2, and the filtrate is concentrated in vacuo. The crude material product is partially purified by a SCX column (MeOH wash, elution with 2M NH3 in MeOH. Further purification is accomplished using silica-gel column chromatography (gradient: 100% CH2Cl2 to 10% 2M NH3 in MeOH/CH2Cl2) to give the title compound (200 mg, 73%). MS (ES+) 276.1 (M+H)+.

reactant | carbodiimide | N=C=N | CH2N2
reactant | nicotinic acid | 2 mmol, 278 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 1.5 mmol, 231 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | HOBt | 2.2 mmol, 300 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.2 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
solvent | CHCl3 BuOH MeCN | 10 mL | C(Cl)(Cl)Cl.C(CCC)O.CC#N
product | (6-Hydroxy-pyridin-3-yl)-(S)(+)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 200 mg, 73% | OC1=CC=C(C=N1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C15H21N3O2
